US07262212B2
To a solution of 4-benzylpiperazin-1-yl-amine (43.18 g, 225 mmol) in etanol (400 ml), a suspension of 20% palladium hydroxide/carbon (6.50 g) in etanol (30 ml) was added, and the mixture was stirred at room temperature under an atmospheric pressure of hydrogen for 3 hours and then at 50° C. for 2 hours. The reaction mixture was filtered through Celite, 4-(trifluoromethoxy)benzaldehyde (42.92 g, 225 mmol) was added to the filtrate, and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=10/1) to afford piperazin-1-yl-(4-trifluoromethoxybenzylidene)amine (56.88 g, yield 93%) as a pale yellow crystalline powder.

reactant | 4-benzylpiperazin-1-yl-amine | 225 mmol, 43.18 g | C(C1=CC=CC=C1)N1CCN(CC1)N | C11H17N3
reactant | hydrogen | [H][H] | H2
reactant | 4-(trifluoromethoxy)benzaldehyde | 225 mmol, 42.92 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
solvent | etanol | 400 ml | CCO | C2H6O
solvent | etanol | 30 ml | CCO | C2H6O
catalyst | palladium hydroxide/carbon | 6.50 g | [OH-].[OH-].[Pd+2]
product | piperazin-1-yl-(4-trifluoromethoxybenzylidene)amine | 56.88 g, yield 93% | N1(CCNCC1)N=CC1=CC=C(C=C1)OC(F)(F)F | C12H14F3N3O
